************************************************************
* Auto-generated from logic_3input_P_CLASS_2stack_40_to_41.log
* function idx   : 41
* truth table    : 00001011
* stack setting  : 2
* #transistors   : 10
* #nets          : 10
* #stages        : 2
* Pin order fixed to: A B C VDD VSS Z
************************************************************
.SUBCKT THREEINPUT_2STACK_TT00001011 A B C VDD VSS Z

MM0 n2 A VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 n1 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n2 A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 n1 B VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 n3 n1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 Z n2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 Z C n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 n4 n2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 Z C n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 Z n1 n4 VDD pmos_rvt w=46.0n l=16n nfin=2

.ENDS
